US05663200
88b) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(4-biphenylyl)methyl]hexanoic acid
1.3 g (2.76 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(4-biphenylyl)methyl]dihydrofuran-2-(3H)-one are hydrolysed, in 28 ml of dimethoxyethane, with 11 ml of a 1M solution of lithium hydroxide in water. After 16 h at PT, the dimethoxyethane is evaporated off on a RE and the residue is treated with an ice-cold mixture of 15 ml of sat. NH4Cl solution, 80 ml of 10% citric acid solution and methylene chloride. The aqueous phase is separated off and extracted 2× with methylene chloride. The organic phases are washed with saline, dried with Na2SO4 and evaporated to give the title compound: TLC Rf (B)=0.4; tRet (II)=16.4 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(4-biphenylyl)methyl]dihydrofuran-2-(3H)-one | 2.76 mmol, 1.3 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C30H33NO4
reactant | lithium hydroxide | [OH-].[Li+]
reactant | dimethoxyethane | 28 ml | C(OC)COC | C4H10O2
solvent | water | O | H2O
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(4-biphenylyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1)O)CC1=CC=CC=C1 | C30H35NO5
